US08211908B2
To a solution of 36 mg of 1-(2-(4-((2,3-dihydro (1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-cyano-1,5-naphthyridin-2(1H)-one in 5 mL of acetic acid, 0.5 mL of a 4 mol/L hydrogen chloride/ethyl acetate and 5 mL of ethyl acetate were added, and the mixture was stirred at room temperature for 10 minutes. The solvent was distilled off under reduced pressure to obtain 44 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-cyano-1,5-naphthyridin-2(1H)-one hydrochloride as a white solid.

reactant | 1-(2-(4-((2,3-dihydro (1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-cyano-1,5-naphthyridin-2(1H)-one | 36 mg | O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)C#N)=O | C24H26N6O3
reactant | hydrogen chloride ethyl acetate | 4 mol/L | Cl.C(C)(=O)OCC
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-cyano-1,5-naphthyridin-2(1H)-one hydrochloride | 44 mg | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)C#N)=O | InChI=1S/C24H26N6O3.ClH/c25-13-17-11-21-20(28-14-17)1-2-24(31)30(21)8-7-29-5-3-18(4-6-29)26-15-19-12-22-23(16-27-19)33-10-9-32-22;/h1-2,11-12,14,16,18,26H,3-10,15H2;1H
